US07741355B2
[2-(2-amino-5-Methyl-sulfanyl-phenylamino)-ethyl]-carbamic acid tert-butyl ester
In a 500 mL round bottom flash equipped with a stir bar was charged with MeOH (200 mL), [2-(5-methyl-sulfanyl-2-nitro-phenylamino)-ethyl]-carbamic acid tert-butyl ester (5 g, 0.02 mol) and NiCl2 (19 g, 0.05 mol) and cooled to 0° C. NaBH4 (1.7 g, 0.05 mol) was added (in four equal portions) to the reaction mixture over a 1 h period. Once the addition was complete the reaction mixture was stirred for an additional 2 h. Brine (100 mL) and ethyl acetate (200 mL) were added to the reaction mixture. The heterogeneous mixture was transferred to a separatory funnel where the aqueous phase was separated and re-extracted with ethyl acetate (2×100 mL). The organic phases were combined and washed with H2O (3×100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated under reduced pressure to give a black residue. The crude product was dissolved in 100 mL of CH2Cl2 and separated into two 100 mL round (50 mL in each) and both were concentrated under reduced pressure and used without further purification.

reactant | MeOH | 200 mL | CO | CH4O
reactant | [2-(5-methyl-sulfanyl-2-nitro-phenylamino)-ethyl]-carbamic acid tert-butyl ester | 0.02 mol, 5 g | C(C)(C)(C)OC(NCCN(C1=C(C=CC(=C1)C)[N+](=O)[O-])S)=O | C14H21N3O4S
reactant | NaBH4 | 0.05 mol, 1.7 g | [BH4-].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | Brine | 100 mL | [Cl-].[Na+].O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | NiCl2 | 0.05 mol, 19 g | Cl[Ni]Cl
product | [2-(2-amino-5-Methyl-sulfanyl-phenylamino)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN(C1=C(C=CC(=C1)C)N)S)=O | C14H23N3O2S
